* source BAI 5
V_V1         N00238 0 10Vdc
R_R1         0 N00238  200k TC=0,0 
R_R2         N00219 N00227  50k TC=0,0 
V_V2         N00219 0 5Vdc
L_L1         N00808 0  100mH IC=0.0000714285 
R_R3         N00808 N00227  20k TC=0,0 
X_S1         N00238 N00227 Sw_tClose PARAMS: tClose=2.99999992 ttran=1u
+  Rclosed=0.01 Ropen=100000Meg
